US07326786B2
Similar procedure as described in example 1b was used, starting from 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one, (2,3-Dihydro-benzofuran-5-ylmethyl) amine and DIEA to give 2-[(2,3-dihydro-benzofuran-5-ylmethyl)-amino]-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one. LC-MS m/e 388 (MH+).

reactant | 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | CSC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C14H10N2OS2
reactant | (2,3-Dihydro-benzofuran-5-ylmethyl) amine | O1CCC2=C1C=CC(=C2)CN | C9H11NO
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 2-[(2,3-dihydro-benzofuran-5-ylmethyl)-amino]-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | O1CCC2=C1C=CC(=C2)CNC=2S\C(\C(N2)=O)=C/C=2C=C1C=CC=NC1=CC2 | C22H17N3O2S
